US04520193
A solution of the Z form of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene and -oct-3-ene (0.22 g) in methylene chloride (10 cc) is cooled to 0° C. A solution of 85% pure m-chloroperbenzoic acid (0.07 g) in methylene chloride (5 cc) is added dropwise in the course of 20 minutes. The solution is then stirred for 5 minutes at 0° C., washed with a saturated solution of sodium bicarbonate (20 cc), dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The residue is chromatographed on a column of Merck silica gel (0.06-0.2) (4 g) (diameter of the column: 1 cm; height: 10 cm). Elution is carried out with a 60/40 (by volume) ethyl acetate/cyclohexane mixture (100 cc) and and 3 cc fractions are collected. Fractions 11 to 22 are concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the Z form of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (0.12 g) in the form of a hard white foam.

reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=C(C)SC1=NN=C(S1)C)NC(=O)OC(C)(C)C)=O | C31H32N4O5S3
reactant | oct-3-ene | 0.22 g | CCC=CCCCC | C8H16
reactant | m-chloroperbenzoic acid | 0.07 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 0.12 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1C=C(C)SC1=NN=C(S1)C)=O)NC(=O)OC(C)(C)C)=O | C31H32N4O6S3
